US05128351
2-[4-(Hexadecyloxy)phenoxy-N-[2-(hydroxymethyl)phenyl]acetamide
To a solution of 1.36 g of 0-aminobenzyl alcohol and 2.69 g of pyridine in 60 ml of methylene chloride is added dropwise with stirring over 40 minutes a solution of 3.5 g of 4-hexadecyloxyphenoxyacetyl chloride in 40 ml of methylene chloride. Stirring is continued at room temperature for 4 hours. The mixture is diluted with chloroform and heated to dissolve the solids, washed with water and dilute hydrochloric acid. The organic layer is dried and evaporated to a residue which is crystallized from carbon tetrachloride to give 3.9 g of the desired product as a white solid, m.p. 128°-131° C.

reactant | 0-aminobenzyl alcohol | 1.36 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | pyridine | 2.69 g | N1=CC=CC=C1 | C5H5N
reactant | 4-hexadecyloxyphenoxyacetyl chloride | 3.5 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)Cl)C=C1 | C24H39ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(Hexadecyloxy)phenoxy-N-[2-(hydroxymethyl)phenyl]acetamide | 3.9 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)NC2=C(C=CC=C2)CO)C=C1 | C31H47NO4
